US06846827B1
4-[2-Methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]-2-(N-methylpiperidin-4-yloxy)pyrimidine
A mixture of 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine (0.13 g), 4-hydroxy-N-methylpiperidine (0.087 g) and potassium tert-butoxide (1M in tert-butanol, 1.5 ml) was stirred and heated to 140° C. for 1 hour. The mixture was partitioned between water and methylene chloride and the organic phase was washed with brine, dried over sodium sulphate and evaporated. There was thus obtained the title compound as a solid (0.11 g); NMR Spectrum: (DMSOd6) 1.45 (m, 2H), 1.88 (m, 2H), 1.97 (m, 2H), 2.05 (s, 3H), 2.15 (s, 3H), 2.23 (m, 2H), 3.5 (m, 4H), 5.7 (m, 4H), 4.77 (m, 1H), 6.28 (d, 1H), 6.89 (m, 1H), 7.1 (m, 1H), 7.21 (m, 1H), 7.24 (s, 1H), 7.47 (m, 1H), 7.9 (m, 1H), 7.98 (d, 1H), 8.25 (m, 1H), 8.9 (s, 1H), 10.24 (s, 1H); Mass Spectrum: M+H+ 504.

reactant | 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.13 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C21H21ClN6O2
reactant | 4-hydroxy-N-methylpiperidine | 0.087 g | OC1CCN(CC1)C | C6H13NO
reactant | potassium tert-butoxide | 1M, 1.5 ml | CC(C)([O-])C.[K+]
product | 4-[2-Methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]-2-(N-methylpiperidin-4-yloxy)pyrimidine | 0.11 g | CC1=C(NC2=NC(=NC=C2)OC2CCN(CC2)C)C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C27H33N7O3
